US05360811
A solution of 1-dodecyne (50.0 g), tributyltinhydride (109.4 g), and azobisisobutyronitrile (100 mg) was stirred at 95° C. for 3 hrs. The reaction mixture was cooled to 50° C. and evaporated. The residue was filtered through a column of silica, using hexane as the eluent. The appropriate fractions were collected and evaporated. The residue was dried under vacuum to give 131.7 g (96.0%) of tri-n-butyl-1-dodecenylstannane.

reactant | 1-dodecyne | 50.0 g | C#CCCCCCCCCCC | C12H22
reactant | tributyltinhydride | 109.4 g | C(CCC)[SnH](CCCC)CCCC
catalyst | azobisisobutyronitrile | 100 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
product | tri-n-butyl-1-dodecenylstannane | 131.7 g, 96.0% | C(CCC)[Sn](C=CCCCCCCCCCC)(CCCC)CCCC | InChI=1S/C12H23.3C4H9.Sn/c1-3-5-7-9-11-12-10-8-6-4-2;3*1-3-4-2;/h1,3H,4-12H2,2H3;3*1,3-4H2,2H3;
